US04372970
A mixture of 6-bromomethylbenzofuran (4.38 g, 0.021 mol), sodium cyanide (2.0 g, 0.041 mol), tetrabutylammonium bromide (0.42 g, 0.0013 mol), water (15 cm3) and dichloromethane (15 cm3) was stirred vigorously for 18 hr. The mixture was separated and the organic layer was washed with water, dried (Na2SO4), filtered and the solvent was removed. The residue was extracted with petroleum ether (b.p. 60°-80° C.), and the solvent was removed to give benzofuran-6-acetonitrile (3.09 g, 0.0197 mol), 93.7%) as an oil, t.l.c./silica/toluene, RF 0.21.

reactant | 6-bromomethylbenzofuran | 0.021 mol, 4.38 g | BrCC1=CC2=C(C=CO2)C=C1 | C9H7BrO
reactant | sodium cyanide | 0.041 mol, 2.0 g | [C-]#N.[Na+]
reactant | water | 15 cm3 | O | H2O
catalyst | tetrabutylammonium bromide | 0.0013 mol, 0.42 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 15 cm3 | ClCCl | CH2Cl2
product | benzofuran-6-acetonitrile | 0.0197 mol, 3.09 g | O1C=CC2=C1C=C(C=C2)CC#N | C10H7NO
